US08049015B2
Methyl phenylacetate (5.03 g, 33.5 mmol) was treated with 1N aqueous NaOH (22 mL, 22 mmol) in THF (40 mL) and MeOH (4 mL), and stirred overnight at room temperature. Additional 1N aqueous NaOH (22 mL, 22 mmol) was added, and the reaction was stirred for 6 hours at room temperature. The mixture was acidified with 1N aqueous HCl to pH 3-4 and extracted with EtOAc three times. The combined organic layers were dried and concentrated to give phenyl-acetic acid.

reactant | Methyl phenylacetate | 33.5 mmol, 5.03 g | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
reactant | NaOH | 22 mmol, 1N, 22 mL | [OH-].[Na+]
reactant | NaOH | 22 mmol, 1N, 22 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | MeOH | 4 mL | CO | CH4O
product | phenyl-acetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
